US07338958B2
b) Production of (RS)-S-(4-nitrophenyl)-S-methyl sulfoximide
1.56 g (8.5 mmol) of 1-(methylsulfinyl)-4-nitrobenzene in 20 ml of DCM is mixed with 0.70 g (9.5 mmol) of sodium azide. The batch is slowly mixed at 0° C. with 2.3 ml of concentrated sulfuric acid and then heated to 45° C. After 16 hours, the batch is cooled to room temperature, mixed with water and extracted from DCM. The aqueous phase is set at pH 11 with 15% NaOH solution and extracted from DCM. The combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. 1.08 g (5.4 mmol, corresponding to 63% of theory) of the product is obtained.

reactant | 1-(methylsulfinyl)-4-nitrobenzene | 8.5 mmol, 1.56 g | CS(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C7H7NO3S
reactant | sodium azide | 9.5 mmol, 0.70 g | [N-]=[N+]=[N-].[Na+]
reactant | sulfuric acid | 2.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (RS)-S-(4-nitrophenyl)-S-methyl sulfoximide | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=N)C | C7H8N2O3S
